US06121308
b. 7-phthalimido-2,4-dimethyl-quinoline
6.90 g (40 mmol) of 7-amino-2,4-dimethyl-quinoline, 5.95 g (42 mmol) of phthalic acid anhydride and 100 ml of glacial acetic acid are refluxed for 2 hours. After cooling the reaction mixture is poured onto ice water, the precipitated product is suction filtered, washed with water and dried.

reactant | 7-amino-2,4-dimethyl-quinoline | 40 mmol, 6.90 g | NC1=CC=C2C(=CC(=NC2=C1)C)C | C11H12N2
reactant | phthalic acid anhydride | 42 mmol, 5.95 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 7-phthalimido-2,4-dimethyl-quinoline | C1(C=2C(C(N1C1=CC=C3C(=CC(=NC3=C1)C)C)=O)=CC=CC2)=O | C19H14N2O2
